US07786108B2
Step 2. Preparation of (S)-(4-{5-[(3-Chloro-5-trifluoromethyl-benzyl)-(2-methyl-2 H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid
To a solution of (S)-(4-{5-[(3-Chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid methyl ester (0.1 mmol) in methanol (1 mL), add 4N sodium hydroxide (0.4 mL). Heat the mixture at 60° C. for 3 h. Dilute the cooled mixture with water and 1N HCl to bring the pH to 6-7 and extract with CH2Cl2 (3×15 mL). Combine the organic layers and wash with water and brine, dry over sodium sulfate, filter, and concentrate under reduced pressure to give a residue. Purify the residue by chromatography (elution with 5%-20% methanol in EtOAc) to afford the title compound. MS (ES+): 673 (M+H).

reactant | (S)-(4-{5-[(3-Chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid methyl ester | 0.1 mmol | COC(CC1CCC(CC1)CN1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)Cl)C=C(C(=C2)C(F)(F)F)C)=O | C32H37ClF6N6O2
reactant | sodium hydroxide | 4N, 0.4 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | (S)-(4-{5-[(3-Chloro-5-trifluoromethyl-benzyl)-(2-methyl-2 H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid | ClC=1C=C(CN([C@@H]2C3=C(N(CCC2)CC2CCC(CC2)CC(=O)O)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F | C31H35ClF6N6O2
